US08026257B2
Dimethyl sulfate (0.020 ml, 0.209 mmol) was added to a solution of tert-butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)piperidine-1-carboxylate (93 mg, 0.190 mmol) and potassium tert-butoxide (23.5 mg, 0.209 mmol) in tetrahydrofuran (5 ml). The reaction was stirred 1 h at ambient temperature. The reaction was quenched with water (10 mL) and extracted with ethyl acetate (3×10 mL). The combined organic layers were dried with magnesium sulfate and evaporated. The residue was purified by chromatography on silica gel with a gradient of 8% to 66% ethyl acetate/hexanes. The product tert-butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (63 mg, 0.125 mmol, 65.9% yield) was obtained as a white solid. 1H-NMR (CDCl3, 400 MHz) δ 7.83 (s, 1H), 7.22-7.36 (m, 6H), 6.95 (s, 1H), 6.50 (s, 1H), 4.66 (s, 2H), 3.66 (s, 3H), 3.62 (m, 2H), 3.41 (m, 2H), 2.99 (m, 2H), 2.09 (m, 2H), 1.77 (m, 2H), 1.40 (s, 9H); Mass spec.(MH)+: 503.19.

reactant | Dimethyl sulfate | 0.209 mmol, 0.020 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | tert-butyl 4-phenyl-4-(((5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.190 mmol, 93 mg | C1(=CC=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=CNC12)C(F)(F)F | C27H31F3N2O3
reactant | potassium tert-butoxide | 0.209 mmol, 23.5 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-butyl 4-(((1-methyl-5-(trifluoromethyl)-1H-indol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.125 mmol, 63 mg, 65.9% yield | CN1C=CC2=CC(=CC(=C12)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C28H33F3N2O3
